Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
gastrointestinal bleeding
 
Major Surgical or Invasive Procedure:
___ gastrointestinal endoscopy

 
History of Present Illness:
This is a ___ year-old female with history of Roux-en-Y gastric
bypass (___) presenting with a 3-day history of abdominal
pain. Patient states that the pain is moderate to severe, mostly
in the epigastric region, worsened by oral intake, with
concomitant nausea but no vomiting. Earlier today, patient
noticed her stools to be black and tarry, which prompted her
visit to our Emergency Department. Of note, patient admits to
recent intake of ibuprofen for 3 days for management of malaise
and headache. She recalls a previous episode of upper GI 
bleeding
and perforation (although patient is unable to fully explain
whether she had a perforation or not) after taking NSAIDs, which
required hospitalization and blood transfusion. She denies fever
or chills. 

 
Past Medical History:
Morbid obesity, iron deficiency anemia requiring iron infusions.
Previous episode of severe GI bleeding in setting of NSAID
administration requiring hospitalization and blood transfusions.

 
Social History:
___
Family History:
Brother with leukemia. Mother with diabetes ___. Maternal
aunt with tongue cancer
 
Physical Exam:
Exam upon Admission:
Vital signs - 97.5  58  118/76  16  100%RA
General - Well-appearing, in no acute distress
Neck - Supple. No lymphadenopathies
Chest - CTAB. RRR, no murmurs
Abdomen - Well healed incisions from previous operations. Soft,
non-distended. Mildly tender over epigastrium. No rebound
tenderness or guarding.
Extremities - Warm and well perfused. No edema
Rectal - Normal tone, no masses. Guaiac positive

Exam upon Discharge:
Vital signs - T 98.0 BP R lying 98 / 62 HR 70 RR 16 O2 98 Ra
General - Patient doing well, lying comfortably in bed
Neck - supple. No LAD.
Pulm - CTAB
Cardiac - RRR, no murmurs
Abdomen - Soft, non-distended, non-tender. No rebound or 
guarding. 
Extremities - Warm and well perfused without edema  
 
Pertinent Results:
___ 12:23PM   GLUCOSE-85 UREA N-11 CREAT-0.7 SODIUM-134* 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-24 ANION GAP-8*
___ 12:23PM   WBC-6.6 RBC-4.01 HGB-12.4 HCT-38.1 MCV-95 
MCH-30.9 MCHC-32.5 RDW-12.8 RDWSD-44.3
 
Brief Hospital Course:
___ is a ___ who was admitted on ___ for abdominal 
pain and melena. She was followed with serial abdominal exams, 
vital signs were trended, and blood counts were followed all of 
which remained stable. She was kept NPO and started on IV PPI 
and Carafate for ulcer protection as well as IVF and vitamin 
infusions for nutrition. She underwent endoscopy for diagnostics 
and potential therapeutic intervention. Upon imaging, GI 
discovered a non-bleeding, uncomplicated marginal ulcer and thus 
no additional interventions were needed. She was discharged on 
omeprazole and Carafate. She should follow up with her original 
surgeon, refrain from every using non-steroidal 
anti-inflammatories and also follow up with her primary care 
physician.
 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY Duration: 8 Weeks 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*60 
Capsule Refills:*0 
2.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastrointestinal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Dear ___,  
 It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
abdominal pain and gastrointestinal bleeding after taking 
ibuprofen. You were found to have a marginal ulcer and underwent 
an endoscopy which demonstrated that the ulcer had stopped 
bleeding and thus no additional interventions were performed by 
the gastrointestinal physicians. You have recovered and are now 
ready to be discharged to home. Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery.  

Please return to the Emergency Department if you notice blood in 
your stool again. 
 
 ACTIVITY:  
 
 - Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.  
 
 - You may climb stairs.  
 
 - You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.  
 
 - You may start some light exercise when you feel comfortable.  

 
 - Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.  
 
 - You may resume sexual activity unless your doctor has told 
you otherwise.  
 
 
 HOW YOU MAY FEEL:  
 
 - You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.  
 
 - You may have a sore throat because of a tube that was in your 
throat during the endoscopy.  
 
 
 YOUR BOWELS:  
 
 - Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.  
 
 - If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.  
 
 - After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.  
 
 
 PAIN MANAGEMENT:  
 
 - Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 
 
 If you experience any of the following, please contact your 
surgeon:  
 
 - sharp pain or any severe pain that lasts several hours  
 - pain that is getting worse over time  
 - pain accompanied by fever of more than 101  
 - a drastic change in nature or quality of your pain  
 
 MEDICATIONS:  
 - Please do not take any type of non-steroidal 
anti-inflammatory medications again in your life. These include 
the following commonly used medications: ibuprofen/Advil and 
naproxen/Aleve as these irritate your stomach lining. If you are 
experiencing pain in the future you should elect to take 
acetaminophen/Tylenol not to exceed the dose on the bottle. Take 
all the medicines you were on before the operation just as you 
did before, unless you have been told differently.  
 - If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

 
Followup Instructions:
___